US07329507B2
Synthesis of β-Ala-Ile-Ala-Leu-OBn (SEQ ID NO:76)
The Fmoc-β-Ala-Ile-Ala-Leu (SEQ ID NO:37), (24.34 g, 0.04 mol) is added into a round bottom flask with DMF (350 mL) and a magnetic stirrer. After the tetrapeptide is dissolved, benzyl bromide (4.76 mL, 0.04 mol), followed by cesium carbonate (13.04 g, 0.04 mol), is added to the solution with stirring. The reaction mixture is stirred at room temperature for 1.5 hrs. Then, the reaction mixture is slowly poured into a flask with 450 mL of iced water. A large amount of white solid precipitates out which is collected by suction filtration. The product is washed with water (2×200 mL) and placed in a vacuum desiccator.

reactant | Fmoc-β-Ala-Ile-Ala-Leu | N(CCC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C33H44N4O7
reactant | DMF | 350 mL | CN(C)C=O | C3H7NO
reactant | benzyl bromide | 0.04 mol, 4.76 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 0.04 mol, 13.04 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 450 mL | O | H2O
product | β-Ala-Ile-Ala-Leu-OBn | NCCC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C25H40N4O5
